US06624309B1
A. N-[(2,2-Dimethylcyclopentyl)methyl]-3-(4-formylphenyl)-2-propenamide
To a cold (0° C.) solution of 4-formylcinnamic acid (345 mg, 1.96 mmol) and 2,2-dimethylcyclopentylmethylamine, hydrochloride (321 mg, 1.96 mmol; title B compound of Example 1) in DMF (5 mL) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (BOP) (954 mg, 2.16 mmol) and N-methylmorpholine (0.47 mL, 4.31 mmol). The cooling bath was removed and the reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was diluted with dichloromethane and washed with 1 N HCl and saturated NaHCO3 solution. The organic layer was dried (MgSO4) and concentrated in vacuo to yield a light amber gum. MS: (ESI), (M+H)+ 286.

reactant | 4-formylcinnamic acid | 1.96 mmol, 345 mg | C(=O)C1=CC=C(C=CC(=O)O)C=C1 | C10H8O3
reactant | 2,2-dimethylcyclopentylmethylamine, hydrochloride | Cl.CC1(C(CCC1)CN)C
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 2.16 mmol, 954 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-methylmorpholine | 4.31 mmol, 0.47 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-[(2,2-Dimethylcyclopentyl)methyl]-3-(4-formylphenyl)-2-propenamide | CC1(C(CCC1)CNC(C=CC1=CC=C(C=C1)C=O)=O)C | C18H23NO2
